US06982348B2
A solution of 1-methyl-3-(2,2,3,3-tetrafluoropropyl)benzene (1.363 g, 6.611 mmol), N-bromosuccinimide (1.18 g, 6.61 mmol) and 2,2′-azobis(isobutyronitrile) (30 mg) in carbon tetrachloride (20 ml) was heated under reflux for 1.5 hrs. After cooling the reaction solution to room temperature, the white precipitate was collected by filtration and the precipitate was washed with hexane. The solvent of the recovered filtrate was evaporated under reduced pressure to give a crude product of 3-(2,2,3,3-tetrafluoropropyl)benzyl bromide as a colorless liquid.

reactant | 1-methyl-3-(2,2,3,3-tetrafluoropropyl)benzene | 6.611 mmol, 1.363 g | CC1=CC(=CC=C1)CC(C(F)F)(F)F | C10H10F4
reactant | N-bromosuccinimide | 6.61 mmol, 1.18 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 30 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(2,2,3,3-tetrafluoropropyl)benzyl bromide | FC(CC=1C=C(CBr)C=CC1)(C(F)F)F | C10H9BrF4
